US03947585
The mixture of 1 g of 8-chloro-4-dimethylaminomethylidene-1-phenyl-3,4-dihydro-2-benzazepin-5-one, 0.33 g of hydrazine hydrate and 45 ml of methanol is refluxed for 4 hours and evaporated under reduced pressure. The residue is taken up in the minimum amount of acetone-ethanol, the solution acidified with ethereal hydrogen chloride and the precipitate formed filtered off, to yield the 8-chloro-6-phenyl-1H,4H-pyrazolo[4,3-d](2)benzazepine dihydrochloride of the formula ##SPC3##

reactant | 8-chloro-4-dimethylaminomethylidene-1-phenyl-3,4-dihydro-2-benzazepin-5-one | 1 g | ClC1=CC2=C(C(C(CN=C2C2=CC=CC=C2)=CN(C)C)=O)C=C1 | C19H17ClN2O
reactant | hydrazine hydrate | 0.33 g | O.NN
solvent | methanol | 45 ml | CO | CH4O
product | 8-chloro-6-phenyl-1H,4H-pyrazolo[4,3-d](2)benzazepine dihydrochloride | Cl.Cl.ClC1=CC2=C(C3=C(CN=C2C2=CC=CC=C2)C=NN3)C=C1 | InChI=1S/C17H12ClN3.2ClH/c18-13-6-7-14-15(8-13)16(11-4-2-1-3-5-11)19-9-12-10-20-21-17(12)14;;/h1-8,10H,9H2,(H,20,21);2*1H
